US08541598B2
Preparation of 2-bromo-N,N-bis(2-methoxyethyl)acetamide
To a stirred solution of DCM, bis(2-methoxyethyl)amine (40.0 g, 44.0 mL, 300 mmol), and triethylamine (69.25 mL, 500 mmol), under a nitrogen atmosphere at −78° C. was added drop wise bromo acetyl bromide (34.8 mL, 400 mmol). After stirring at −78° C. for 5 h, the reaction mixture was allowed to warm up to −20° C. and then quenched by addition of water (60 mL). The organic phase was washed with distilled water (3×30 mL), saturated ammonium chloride (3×30 mL), saturated sodium bicarbonate (3×30 mL) and brine (2×30 mL). The organic phase was then dried over magnesium sulfate, filtered and solvents removed via rotary evaporation to yield a crude product in 82% yield (62.3 g, 245 mmol). The crude product was then distilled under high vacuum at 170° C. to give pale yellow crystals in 49% yield (35.57 g, 140 mmol). Pure product can also be recrystallised from the crude material with diethyl ether.

reactant | bis(2-methoxyethyl)amine | 300 mmol, 44.0 mL, 40.0 g | COCCNCCOC | C6H15NO2
reactant | triethylamine | 500 mmol, 69.25 mL | C(C)N(CC)CC | C6H15N
reactant | bromo acetyl bromide | 400 mmol, 34.8 mL | BrCC(=O)Br | C2H2Br2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-bromo-N,N-bis(2-methoxyethyl)acetamide | 82% yield | BrCC(=O)N(CCOC)CCOC | C8H16BrNO3
